2187-09-24 10:33:00 Physician Attending Progress Note
Chief Complaint: hepatic encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2187-9-23**] 04:00 PM
   Abd CT 1.7 cm right heptic lesion concerning for HCC (but not seen on
   recent MRI)
   HCT 27 to 24.2
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Thiamin, rifaximin, lactulose, insulin ss,
   Albumin 75 x1,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-24**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 73 (73 - 106) bpm
   BP: 79/50(56) {79/46(56) - 120/70(78)} mmHg
   RR: 12 (9 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  4,157 mL
                                                                    120 mL
   PO:
                  TF:
   IVF:
                                                                  2,097 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  4,130 mL
                                                                  1,743 mL
   Urine:
                                                                  1,130 mL
                                                                    503 mL
   NG:
   Stool:
                                                                  3,000 mL
   Drains:
   Balance:
                                                                     27 mL
                                                                 -1,623 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 488 (475 - 488) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.30/49/106/23/-2
   Ve: 6.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   119 K/uL
   94 mg/dL
   2.6 mg/dL
   23 mEq/L
   4.7 mEq/L
   50 mg/dL
   117 mEq/L
   147 mEq/L
   25.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2187-9-22**]  05:38 AM
                             [**2187-9-22**]  07:26 PM
                             [**2187-9-22**]  07:51 PM
                             [**2187-9-23**]  12:01 AM
                             [**2187-9-23**]  03:37 AM
                             [**2187-9-23**]  11:40 AM
                             [**2187-9-23**]  06:11 PM
                             [**2187-9-24**]  02:42 AM
                             [**2187-9-24**]  04:01 AM
                             [**2187-9-24**]  08:42 AM
   WBC
   11.4
   10.6
   7.0
   7.1
   7.2
   Hct
   28.2
   26.1
   27.4
   24.2
   23.6
   25.4
   Plt
   169
   131
   105
   109
   119
   Cr
   3.1
   2.8
   2.6
   TCO2
   25
   24
   25
   Glucose
   119
   112
   94
   Other labs: PT / PTT / INR:21.2/50.8/2.0, ALT / AST:32/70, Alk Phos / T
   Bili:153/4.1, Lactic Acid:0.8 mmol/L, Albumin:3.3 g/dL, LDH:298 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   1.Hepatic Encephalopathy: improved this AM
 initial precipitant
   unclear, did have some ARF, continue Lactulose Rifaximin,
   2. ARF: resolving after fluid challenge, renally dose all meds
 need
   to weatch after dye load from CT
   3 Resp Failure: resolved, doing well post extubation- check repeat ABG
   4. Stool: send c diff
 seems out of proportion to even lactulose
   ICU Care
   Nutrition: advance to clears
   Glycemic Control:  prn
   Lines:
   20 Gauge - [**2187-9-22**] 06:47 PM
   18 Gauge - [**2187-9-22**] 09:17 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  wife
   [**Name (NI) 156**] status: Full code
   Disposition : possible tx to [**Hospital Ward Name 383**] 10
   Total time spent: 35

2187-09-24 16:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2187-9-23**] 04:00 PM
 CALLED OUT
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt feeling improved. States he knows he is at [**Hospital 1249**]. Denies fevers, chills, chest pain, abdominal pain, dyspnea.
   Flowsheet Data as of  [**2187-9-24**] 04:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 85 (70 - 106) bpm
   BP: 118/75(86) {79/46(56) - 120/75(86)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  4,157 mL
                                                                    870 mL
   PO:
                  550 mL
   TF:
   IVF:
                                                                  2,097 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  4,130 mL
                                                                  2,498 mL
   Urine:
                                                                  1,130 mL
                                                                    658 mL
   NG:
   Stool:
                                                                  3,000 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                     27 mL
                                                                 -1,628 mL
   Respiratory support
   O2 Delivery Device: None, Face tent
   SpO2: 96%
   ABG: 7.34/44/62/23/-2
   PaO2 / FiO2: 177
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, EOMI
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), [**4-1**]
   radiating to the axilla
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : Anteriorly)
   Abdominal: Soft, Distended, Reducible Umbilical Hernia, Non-tender,
   Bowel sounds present
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, + Asterxis (1-2 Beats)
   Labs / Radiology
   119 K/uL
   8.5 g/dL
   94 mg/dL
   2.6 mg/dL
   23 mEq/L
   4.7 mEq/L
   50 mg/dL
   117 mEq/L
   147 mEq/L
   25.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2187-9-22**]  07:26 PM
                             [**2187-9-22**]  07:51 PM
                             [**2187-9-23**]  12:01 AM
                             [**2187-9-23**]  03:37 AM
                             [**2187-9-23**]  11:40 AM
                             [**2187-9-23**]  06:11 PM
                             [**2187-9-24**]  02:42 AM
                             [**2187-9-24**]  04:01 AM
                             [**2187-9-24**]  08:42 AM
                             [**2187-9-24**]  10:51 AM
   WBC
   11.4
   10.6
   7.0
   7.1
   7.2
   Hct
   28.2
   26.1
   27.4
   24.2
   23.6
   25.4
   Plt
   169
   131
   105
   109
   119
   Cr
   3.1
   2.8
   2.6
   TCO2
   24
   25
   25
   Glucose
   119
   112
   94
   Other labs: PT / PTT / INR:21.2/50.8/2.0, ALT / AST:32/70, Alk Phos / T
   Bili:153/4.1, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:298 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   60M with h/o ESLD due to EtOH cirrhosis now presents with acute onset
   altered mental status, likely due to hepatic encephalopathy
   .
   #.  Hepatic Encephalopathy - Mental Status resolved. Etiology included
   hepatic encephalopathy vs unclear infectious etiology leading to
   delerium. Likely hepatic encephalopathy given pts history although per
   report was taking Lactulose. Patient having very loose stools,
   abdominal distended but not tympanic, wihtout leukocytosis. Ultrasound
   finding ? portal vein thrombus, however not evident on CTA.  No SPB
   based on ascites, urine and serum tox negative.
   -- Continue Lactulose
   -- Continue Rifaximin
   -- R/O C. Diff Pending
   -- Blood Cx,  Ascites cxs negative to date
   -- CIWA scale (will discuss with team to d/c)
   .
   # Respiratory Failure - Patient extubated overnight, now on room air.
   -- HOB elevation, VAP care/mouth hygiene
   .
   #. ESLD - Recently placed on transplant list.  Received Albumin 1gm/kg
   yesterday (75gm).Questionable new liver lesion seen on CT Liver not
   previously seen on  MRI.
   -- lactulose/rifaximin
   -- trend LFTs
   -- MELD score now 28
   -- F/U CT Liver read with radiology
   -- F/u Liver recs, discuss with liver team new liver lesion finding.
   .
   # Hypernatremia: Na 147 today from 138.
   - Patient now taking good PO clears now that he is extubated
   .
   # CRI - Now Cr 2.6, now at baseline. Potentially intravascular
   depletion vs early hepatorenal syndrome.
   -- trend creatinine
   -- renally dose meds
   -- Nephrology (Dr. [**Last Name (STitle) 1250**] following to evaluate for potential renal
   transplant.
   .
   # Depression -
   -- Continue sertraline
   .
   #. FEN - Taking good PO's.Clears, Low Na diet when extubated
   .
   #. Access - PIV  x3 (18,18,20)
   .
   #. PPx
 Boots, PPI
   .
   #. Code - FULL CODE
   .
   #. Communication - with wife
   .
   #. Dispo - Call Out to [**Doctor Last Name **]-[**Doctor Last Name **] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-9-22**] 06:47 PM
   18 Gauge - [**2187-9-22**] 09:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: